US07183302B2
2-(4-Nitrophenyl)-5H-thiazolo[2,3-b]quinazolin-3-one
A solution of bromo-(4-nitrophenyl)acetic acid ethyl ester (0.92 g, 3.2 mmol) in ethanol (15 ml) was added to a suspension of 3,4-dihydro-1H-quinazoline-2-thione (0.5 g, 3.0 mmol) in ethanol (10 ml) and the resulting mixture was heated at reflux for 3 h. A brown solid was filtered, washed with ethanol, and dried under reduced pressure to yield 0.86 g (88%) of a yellowish solid. 1H NMR (500 MHz, DMSO-D6) δ ppm 4.89 (m, 2H) 5.95 (s, 1H) 7.12 (d, J=7.63 Hz, 1H) 7.17 (t, J=7.48 Hz, 1H) 7.26 (m, 2H) 7.82 (d, J=8.85 Hz, 2H) 8.25 (d, J=8.85 Hz, 2H). MS (ESI) m/z 326 (MH+); HPLC (Column YMC Xterra OSD 4.6×33 mm S 7) rt 1.53 min; Purity (93%).

reactant | bromo-(4-nitrophenyl)acetic acid ethyl ester | 3.2 mmol, 0.92 g | C(C)OC(C(C1=CC=C(C=C1)[N+](=O)[O-])Br)=O | C10H10BrNO4
reactant | 3,4-dihydro-1H-quinazoline-2-thione | 3.0 mmol, 0.5 g | N1C(NCC2=CC=CC=C12)=S | C8H8N2S
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(4-Nitrophenyl)-5H-thiazolo[2,3-b]quinazolin-3-one | 0.86 g, 88% | [N+](=O)([O-])C1=CC=C(C=C1)C1C(N2C(=NC3=CC=CC=C3C2)S1)=O | C16H11N3O3S
